US07795267B2
7-(Benzoxazol-2-yl)-hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one
To a solution of hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (60 mg, 0.2 mmol) in tetrahydrofuran (2 mL) were sequentially added diisopropylethylamine (0.3 mL) and 2-chlorobenzoxazole (45 mg, 0.29 mmol), and the mixture was stirred at room temperature for 3 hours. The reaction solution was concentrated under reduced pressure. Then, the residue was purified with silica gel column chromatography (hexane:ethyl acetate=3:1) and recrystallized from diisopropyl ether to obtain the title compound (51 mg, yield 62%).

reactant | hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.2 mmol, 60 mg | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
reactant | diisopropylethylamine | 0.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-chlorobenzoxazole | 0.29 mmol, 45 mg | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 7-(Benzoxazol-2-yl)-hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 51 mg, yield 62% | O1C(=NC2=C1C=CC=C2)N2CC1N(CC2)C(OC1(C1=CC=CC=C1)C1=CC=CC=C1)=O | C25H21N3O3
